US04500626
A mixture of 111 g of 6-hexadecyloxy-2-methylbenzoxazole, 1,300 ml of ethanol, 110 ml of 33% hydrochloric acid and 550 ml of water was stirred at 55°-60° C. for 4 hours. The reaction solution was cooled to precipitate crystals, and the crystals were collected by filtration. 113 g of 2-acetylamino-5-hexadecyloxyphenol was obtained.

reactant | 6-hexadecyloxy-2-methylbenzoxazole | 111 g | C(CCCCCCCCCCCCCCC)OC1=CC2=C(N=C(O2)C)C=C1 | C24H39NO2
reactant | ethanol | 1,300 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 110 ml | Cl | ClH
solvent | water | 550 ml | O | H2O
product | 2-acetylamino-5-hexadecyloxyphenol | 113 g | C(C)(=O)NC1=C(C=C(C=C1)OCCCCCCCCCCCCCCCC)O | C24H41NO3
